US04753934
3-(3-Amino-4-methoxyphenyl)-3-phenylacrylic acid morpholide
7.37 g (20 mmols) of 3-(4-methoxy-3-nitrophenyl)-3-phenylacrylic acid morpholide were dissolved in 100 ml of ethanol, then 100 ml of water were added, the mixture was heated to 50° C., and 14.7 g (70 mmols) of sodium dithionite were added while stirring. The mixture as then refluxed for one hour, the ethanol was distilled off in vacuo, and water was added. The brown greasy substance thus obtained was dissolved in toluene and purified on a silica gel column. Elution was carried out first with toluene and then with a toluene/acetone mixture 80:20. The fractions containing the substance with Rf 0.26 (toluene/acetone 70:30) were concentrated by evaporation in vacuo.

reactant | 3-(4-methoxy-3-nitrophenyl)-3-phenylacrylic acid morpholide | 20 mmols, 7.37 g | COC1=C(C=C(C=C1)C(=CC(=O)N1CCOCC1)C1=CC=CC=C1)[N+](=O)[O-] | C20H20N2O5
reactant | water | 100 ml | O | H2O
reactant | sodium dithionite | 70 mmols, 14.7 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-(3-Amino-4-methoxyphenyl)-3-phenylacrylic acid morpholide | NC=1C=C(C=CC1OC)C(=CC(=O)N1CCOCC1)C1=CC=CC=C1 | C20H22N2O3
